US08877779B2
(R)-2-{3-[1-(5-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide
(R)-1-[1-(5-Methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol 2-one (995 mg) was dissolved in DMF (10 ml). Sodium hydride (132 mg, 60%) was added, and the suspension was stirred at room temperature for 40 min. Ethyl bromoacetate (458 μl) was added, and the mixture was stirred for 4 hr. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated aqueous ammonium chloride solution, dried over sodium sulfate, and concentrated. To the residue was added 40% methylamine-methanol solution (30 ml), the mixture was stirred at room temperature for 2.5 hr, and the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform/methanol), and crystallized with ethyl acetate to give the title compound (1.0 g) as pale-yellow crystals.

reactant | (R)-1-[1-(5-Methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol 2-one | 995 mg | CC1=C2CCC[C@H](C2=CC=C1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C23H27N3O
reactant | Sodium hydride | 132 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 458 μl | BrCC(=O)OCC | C4H7BrO2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (R)-2-{3-[1-(5-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide | 1.0 g | CC1=C2CCC[C@H](C2=CC=C1)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CC(=O)NC)=O | C26H32N4O2
